US07662825B2
c) 2,3-Dichloro-N-(6-Chloro-3-methoxy-2-pyrazinyl)benzenesulphonamide
Prepared by the method of Example 1 (reaction performed at room temperature) using 6-chloro-3-methoxy-2-pyrazinamine (0.24 g) and 2,3-dichlorobenzenesulphonyl chloride (0.32 g). Yield 0.24 g.

reactant | 6-chloro-3-methoxy-2-pyrazinamine | 0.24 g | ClC1=CN=C(C(=N1)N)OC | C5H6ClN3O
reactant | 2,3-dichlorobenzenesulphonyl chloride | 0.32 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2,3-Dichloro-N-(6-Chloro-3-methoxy-2-pyrazinyl)benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC(=CN=C1OC)Cl | C11H8Cl3N3O3S
